US09403849B2
a) 1,6-Bis(2,5-dimethylphenyl)pyrene
7.2 g (20 mmol) of tri-o-tolylphosphine and 740 mg (3.3 mmol) of palladium(II) acetate are added to a vigorously stirred suspension of 76.0 g (211 mmol) of dibromopyrene (isomer mixture), 72.9 g (486 mmol) of 2,5-dimethylphenylboronic acid and 222.4 g (966 mmol) of potassium phosphate monohydrate in a mixture of 500 ml of toluene, 500 ml of dioxane and 100 ml of water, and the mixture is refluxed for 12 h. After cooling to room temperature, the precipitated solid is filtered off with suction, washed with 200 ml of ethanol and dissolved in 500 ml of dichloromethane with warming, the solution is filtered through silica gel, the filtrate is evaporated to 1000 ml under reduced pressure, and 300 ml of ethanol are added. After standing for 2 h, the colourless crystals are filtered off with suction, washed with 100 ml of ethanol and dried under reduced pressure. Yield: 32.5 g (79 mmol), 37.5% of theory; purity 98% according to 1H-NMR.

reactant | tri-o-tolylphosphine | 20 mmol, 7.2 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | dibromopyrene | 211 mmol, 76.0 g | BrC=1C=C2C=CC3=CC(=CC4=CC=C(C1)C2=C43)Br | C16H8Br2
reactant | 2,5-dimethylphenylboronic acid | 486 mmol, 72.9 g | CC1=C(C=C(C=C1)C)B(O)O | C8H11BO2
reactant | potassium phosphate monohydrate | 966 mmol, 222.4 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 3.3 mmol, 740 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 1,6-Bis(2,5-dimethylphenyl)pyrene | CC1=C(C=C(C=C1)C)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=C(C=CC(=C3)C)C | C32H26
